US08258144B2
A solution of tert-butyl (1-(2-(4-carbamoylphenylamino)-5-fluoropyrimidin-4-yl)piperidin-4-yl)methylcarbamate (10 mg, 0.023 mmol) in TFA (2 mL) was stirred at room temperature for 60 min. TFA was removed in vacuo. The residue was purified by HPLC to give 4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)benzamide (5 mg) MS 345.3 (M+H); UV 210.0, 281.8 nm.

reactant | tert-butyl (1-(2-(4-carbamoylphenylamino)-5-fluoropyrimidin-4-yl)piperidin-4-yl)methylcarbamate | 0.023 mmol, 10 mg | C(N)(=O)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N1CCC(CC1)CNC(OC(C)(C)C)=O)F | C22H29FN6O3
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)benzamide | 5 mg | NCC1CCN(CC1)C1=NC(=NC=C1F)NC1=CC=C(C(=O)N)C=C1 | C17H21FN6O
